US06099592
To a solution of 17.3 g (0.1 mol) of 5-amino-3-methyl-1-phenylpyrazole in 200 cm3 of absolute ethanol were added dropwise 0.5 cm3 of 12N hydrochloric acid and then 13.5 cm3 of isoamyl nitrite, at 0° C. The solution was then warmed to and left at room temperature for 4 hours. An orange-coloured solid crystallized out. This solid was filtered off on a sinter funnel and washed with 100 cm3 of isopropyl ether. After drying under vacuum at room temperature, 17 g of 5-amino-3-methyl-4-nitroso-1-phenylpyrazole were obtained in the form of an orange-coloured solid, the melting point of which was from 202 to 204° C.

reactant | 5-amino-3-methyl-1-phenylpyrazole | 0.1 mol, 17.3 g | NC1=CC(=NN1C1=CC=CC=C1)C | C10H11N3
reactant | hydrochloric acid | 12N, 0.5 cm3 | Cl | ClH
reactant | isoamyl nitrite | 13.5 cm3 | N(=O)OCCC(C)C | C5H11NO2
solvent | ethanol | 200 cm3 | C(C)O | C2H6O
product | 5-amino-3-methyl-4-nitroso-1-phenylpyrazole | 17 g | NC1=C(C(=NN1C1=CC=CC=C1)C)N=O | C10H10N4O
